US09388189B2
c) (5-(Difluoromethoxy)pyridin-3-yl)boronic acid
3-Bromo-5-(difluoromethoxy)pyridine (813 mg, 3.63 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (1.84 g, 7.25 mmol), potassium acetate (1.07 g, 11 mmol), and bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (296 mg, 0.36 mmol) and 1,1′-bis(diphenylphosphino)ferrocene (201 mg, 0.36 mmol) were suspended in dioxane (35 ml) and stirred at 90° C. overnight. After usual work-up with water and ethyl acetate, the reaction crude was purified by reverse phase chromatography (C-18 silica from Waters®, water/1:1 acetonitrile-methanol as eluents [0.1% v/v formic acid buffered] 0% to 100%) to give 495 mg (72% yield) of the title compound as a yellow oil. Purity 95%.

reactant | 3-Bromo-5-(difluoromethoxy)pyridine | 3.63 mmol, 813 mg | BrC=1C=NC=C(C1)OC(F)F | C6H4BrF2NO
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 7.25 mmol, 1.84 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 11 mmol, 1.07 g | C(C)(=O)[O-].[K+]
reactant | water | O | H2O
solvent | dioxane | 35 ml | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.36 mmol, 201 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (5-(Difluoromethoxy)pyridin-3-yl)boronic acid | 495 mg, 72% yield | FC(OC=1C=C(C=NC1)B(O)O)F | C6H6BF2NO3
